US06737411B2
2-thienylethlamine was reacted with formaldehyde to give the corresponding formimine, which was then added to a solution of hydrochloric acid in DMF, resulting in cyclization to tetrahydrothienopyridine hydrochloride. The DMF used was anhydrous, KF≦0.05%, to avoid formimine hydrolysis.

reactant | 2-thienylethlamine | S1C(=CC=C1)CCN | C6H9NS
reactant | formaldehyde | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
reactant | DMF | CN(C)C=O | C3H7NO
product | tetrahydrothienopyridine hydrochloride | Cl.S1CCC2C1=CC=CN2 | InChI=1S/C7H9NS.ClH/c1-2-7-6(8-4-1)3-5-9-7;/h1-2,4,6,8H,3,5H2;1H
